US07361669B2
Step A: Preparation of the Thiosemicabazide Adduct of Nicotinic Acid
Isonicotinic acid hydrazide (1.06 g, 7.73 mmol) and trimethylsilyl isothiocyanate (2.03 g, 15.4 mmol) were dissolved in acetic acid (2.0 ml) in a round bottom flask with a condenser and stirred magnetically at 105° C. overnight. The solution was cooled to room temperature, at which time a solid formed. The acetic acid solution was decanted and any remaining solvent was evaporated with heating on a rotary evaporator. This residue was carried on as such to the next step.

reactant | Isonicotinic acid hydrazide | 7.73 mmol, 1.06 g | C(C1=CC=NC=C1)(=O)NN | C6H7N3O
reactant | trimethylsilyl isothiocyanate | 15.4 mmol, 2.03 g | C[Si](C)(C)N=C=S | C4H9NSSi
reactant | acetic acid | 2.0 ml | C(C)(=O)O | C2H4O2
product | Nicotinic Acid | C(C1=CN=CC=C1)(=O)O | C6H5NO2
